US05153203
10-(3-Pyrrolidinyloxy)-9-fluoro-2,3-dihydro-3-methyl-7-oxo- 7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid hydrochloride (Compound No. 9)
Ethyl 10-(1-t-butoxycarbonyl-3-pyrrolidinyloxy)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3de][1,4]-benzoxazine-6-carboxylate (120 mg), 0.6 ml of concentrated hydrochloric acid and 2.6 ml of acetic acid were used. The ester was treated in a similar manner to Example 1-(2) and recrystallized from ethanol, whereby 50 mg of the title compound was obtained.

reactant | Ethyl 10-(1-t-butoxycarbonyl-3-pyrrolidinyloxy)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3de][1,4]-benzoxazine-6-carboxylate | 120 mg | C(C)(C)(C)OC(=O)N1CC(CC1)OC=1C(=CC2=C3N(C(COC31)C)C=C(C2=O)C(=O)OCC)F | C24H29FN2O7
reactant | hydrochloric acid | 0.6 ml | Cl | ClH
solvent | acetic acid | 2.6 ml | C(C)(=O)O | C2H4O2
product | 10-(3-Pyrrolidinyloxy)-9-fluoro-2,3-dihydro-3-methyl-7-oxo- 7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid hydrochloride | 50 mg | Cl.N1CC(CC1)OC=1C(=CC2=C3N(C(COC31)C)C=C(C2=O)C(=O)O)F | InChI=1S/C17H17FN2O5.ClH/c1-8-7-24-16-13-10(14(21)11(17(22)23)6-20(8)13)4-12(18)15(16)25-9-2-3-19-5-9;/h4,6,8-9,19H,2-3,5,7H2,1H3,(H,22,23);1H
